US07179820B2
Sodium hydride (60% dispersion in oil, 8.2 mg, 0.21 mmol) was added to a solution of dimethyl 2-oxo-3-phenylpropylphosphonate (45 mg, 0.19 mmol) in THF (1.0 mL) at 0° C. After 10 min at 0° C., the solution was allowed to warm to rt. After 1 h at rt, the solution was recooled to 0° C. and 7-((R)-2-formyl-6-oxo-piperidin-1-yl)-heptanoic acid methyl ester (crude from previous reaction, ˜0.21 mmol) in THF (1.0 mL) was added via cannula. The reaction was allowed to warm to rt. After 18 h at rt, the reaction was quenched with acetic acid (50% aqueous, 10 mL) and extracted with EtOAc (3×15 mL). The combined organic phase was washed with saturated aqueous NaHCO3 (20 mL) and brine (20 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→2% MeOH/CH2Cl2, gradient) afforded 36.5 mg (51%) of 7-[(R)-2-oxo-6-((E)-3-oxo-4-phenyl-but-1-enyl)-piperidin-1-yl]-heptanoic acid methyl ester.

reactant | Sodium hydride | 0.21 mmol, 8.2 mg | [H-].[Na+]
reactant | dimethyl 2-oxo-3-phenylpropylphosphonate | 0.19 mmol, 45 mg | O=C(CP(OC)(OC)=O)CC1=CC=CC=C1 | C11H15O4P
reactant | 7-((R)-2-formyl-6-oxo-piperidin-1-yl)-heptanoic acid methyl ester | ˜0.21 mmol | COC(CCCCCCN1[C@H](CCCC1=O)C=O)=O | C14H23NO4
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 7-[(R)-2-oxo-6-((E)-3-oxo-4-phenyl-but-1-enyl)-piperidin-1-yl]-heptanoic acid methyl ester | 36.5 mg, 51% | COC(CCCCCCN1C(CCC[C@@H]1\C=C\C(CC1=CC=CC=C1)=O)=O)=O | C23H31NO4
